US08859774B2
Alternative Procedure: 2-Bromopyridine (110.0 g, 690 mmole) as a solution in diethyl ether (200 mL) was added to a cooled (−65° C.) solution of 2.5 M n-BuLi (275 mL, 690 mmol) in diethyl ether (200 mL). The mixture was stirred for 1 h at −70° C. to −65° C. To this solution was then added a suspension of (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate (100.0 g, 230 mmol) in diethyl ether (1.0 L), keeping the temperature below −65° C. The resulting solution was stirred for 2 hours at −70° C. to −65° C. The reaction mixture was quenched with glacial acetic acid (50 mL) and diluted with water (200 mL). The organic layer was washed with 20% aqueous sodium chloride solution (250 mL), dried over magnesium sulphate and concentrated to give a yellow foam. The crude product was purified over silica gel (350 g, 240-400 mesh) by elution with heptane/ethyl acetate (8:1 to 2:1) to give (R)-tert-butyl 1-(4-fluorophenyl)-4a-picolinoyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (109.5 g) as a yellow foam.

reactant | 2-Bromopyridine | 690 mmole, 110.0 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 690 mmol, 2.5 M, 275 mL | [Li]CCCC
reactant | (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate | 230 mmol, 100.0 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)C(=O)OC(C)(C)C | C23H26FN3O4
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1.0 L | C(C)OCC | C4H10O
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-picolinoyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 109.5 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(C2=NC=CC=C2)=O)C(=O)OC(C)(C)C | C27H27FN4O3
